US06498159B1
14.7 g of benzyl 4-methylene-1-piperidinecarboxylate was dissolved in 300 ml methanol, 20.4 g of phthalic acid monoperacid magnesium salt and 13.3 g of sodium bicarbonate were added thereto, and the mixture was stirred at room temperature for 7.5 hr. The reaction solution was evaporated. Ethyl acetate was added to the resulting residue which was then washed with water and brine, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was evaporated, and then subjected to silica gel column chromatography to give 11.3 g of benzyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate.

reactant | benzyl 4-methylene-1-piperidinecarboxylate | 14.7 g | C=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO2
reactant | phthalic acid | 20.4 g | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | sodium bicarbonate | 13.3 g | C([O-])(O)=O.[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | benzyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 11.3 g | O1CC12CCN(CC2)C(=O)OCC2=CC=CC=C2 | C14H17NO3
